US05935973
A mixture of (R)-glycidyl 4-toluenesulphonate (10.0 g), 5-chloro-2-hydroxybenzaldehyde (8.92 g) and potassium carbonate (7.87 g) in dimethylformamide (200 ml) was stirred and heated at 60° C. for 5 hours then allowed to stand for 18 hours. Water (200 ml) was added and the resultant mixture extracted with ether (3×150 ml). The combined ether extracts were washed with brine (3×150 ml), dried over magnesium sulphate and the solvent evaporated. The oily residue was purified by flash chromatography on silica eluting with a 25:1 followed by a 10:1 mixture of petroleum ether (b.p. 40-60° C.) and ethyl acetate to give (R)-5-chloro-2-(2,3-epoxypropoxy)benzaldehyde (8.1 g) contaminated with ~10% of an unknown impurity, which was used without further purification.

reactant | (R)-glycidyl 4-toluenesulphonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1CO1)C | C10H12O4S
reactant | 5-chloro-2-hydroxybenzaldehyde | 8.92 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | potassium carbonate | 7.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (R)-5-chloro-2-(2,3-epoxypropoxy)benzaldehyde | 8.1 g | ClC=1C=CC(=C(C=O)C1)OC[C@H]1CO1 | C10H9ClO3
